US07531553B2
A mixture of 6,7-dimethoxy-4-chloroquinoline (0.35 g, 1.6 mmol) and 3,4-dinitrophenol (0.85 g, 4.6 mmol) was heated to 150° C. for 4 h. The mixture was cooled at RT and MeOH added. The reaction was stirred for 3 h. The precipitate filtered out and was washed with MeOH to afford 4-(3,4-dinitrophenoxy)-6,7-dimethoxyquinoline.

reactant | 6,7-dimethoxy-4-chloroquinoline | 1.6 mmol, 0.35 g | COC=1C=C2C(=CC=NC2=CC1OC)Cl | C11H10ClNO2
reactant | 3,4-dinitrophenol | 4.6 mmol, 0.85 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])O | C6H4N2O5
solvent | MeOH | CO | CH4O
product | 4-(3,4-dinitrophenoxy)-6,7-dimethoxyquinoline | [N+](=O)([O-])C=1C=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC1[N+](=O)[O-] | C17H13N3O7
